US03981932
To 11.1 g. (0.044 moles) of ethyl 3-amino-4-cyclohexylphenylglyoxylate suspension in 225 ml. of 40$ hydrobromic acid and cooled to 0°C is added dropwise a solution of 2.34 g. of sodium nitrite in 30 ml. of water. To this mixture is added a solution of 20 g. of cuprous bromide in 350 ml. of 40% hydrobromic acid added portion wise and stirred for 15 hours. The reaction mixture is then poured onto ice water, extracted with chloroform, dried over sodium sulfate and concentrated in vacuo. The residue is then crystallized to obtain 3-bromo-4-cyclohexylphenylglyoxylic acid.

reactant | ethyl 3-amino-4-cyclohexylphenylglyoxylate | 0.044 moles | NC=1C=C(C=CC1C1CCCCC1)C(C(=O)OCC)=O | C16H21NO3
reactant | hydrobromic acid | Br | BrH
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 3-bromo-4-cyclohexylphenylglyoxylic acid | BrC=1C=C(C=CC1C1CCCCC1)C(C(=O)O)=O | C14H15BrO3
